* comparator_mc_batch_3
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt_mm
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 27
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
VDD vdd 0 1.8
VIP sp 0 PWL(0 0.8985 5.25e-07 0.8985 5.26e-07 0.8995 1.15e-06 0.8995 1.151e-06 0.899875 1.775e-06 0.899875 1.776e-06 0.9 2.4e-06 0.9 2.401e-06 0.900125 3.025e-06 0.900125 3.026e-06 0.9005 3.65e-06 0.9005 3.651e-06 0.9015)
VIN sn 0 PWL(0 0.9015 5.25e-07 0.9015 5.26e-07 0.9005 1.15e-06 0.9005 1.151e-06 0.900125 1.775e-06 0.900125 1.776e-06 0.9 2.4e-06 0.9 2.401e-06 0.899875 3.025e-06 0.899875 3.026e-06 0.8995 3.65e-06 0.8995 3.651e-06 0.8985)
VCLK clk 0 PULSE(0 1.8 200n 1n 1n 250n 625n)
RP0 sp ip0 350
RN0 sn inn0 350
XCP0 ip0 0 adc_mim_bank COUNT=4096
XCN0 inn0 0 adc_mim_bank COUNT=4096
XCMP0 ip0 inn0 q0 qb0 clk vdd 0 adc_latched_comparator
CQ0 q0 0 5f
CQB0 qb0 0 5f
.ic V(q0)=0 V(qb0)=1.8
RP1 sp ip1 350
RN1 sn inn1 350
XCP1 ip1 0 adc_mim_bank COUNT=4096
XCN1 inn1 0 adc_mim_bank COUNT=4096
XCMP1 ip1 inn1 q1 qb1 clk vdd 0 adc_latched_comparator
CQ1 q1 0 5f
CQB1 qb1 0 5f
.ic V(q1)=0 V(qb1)=1.8
RP2 sp ip2 350
RN2 sn inn2 350
XCP2 ip2 0 adc_mim_bank COUNT=4096
XCN2 inn2 0 adc_mim_bank COUNT=4096
XCMP2 ip2 inn2 q2 qb2 clk vdd 0 adc_latched_comparator
CQ2 q2 0 5f
CQB2 qb2 0 5f
.ic V(q2)=0 V(qb2)=1.8
RP3 sp ip3 350
RN3 sn inn3 350
XCP3 ip3 0 adc_mim_bank COUNT=4096
XCN3 inn3 0 adc_mim_bank COUNT=4096
XCMP3 ip3 inn3 q3 qb3 clk vdd 0 adc_latched_comparator
CQ3 q3 0 5f
CQB3 qb3 0 5f
.ic V(q3)=0 V(qb3)=1.8
RP4 sp ip4 350
RN4 sn inn4 350
XCP4 ip4 0 adc_mim_bank COUNT=4096
XCN4 inn4 0 adc_mim_bank COUNT=4096
XCMP4 ip4 inn4 q4 qb4 clk vdd 0 adc_latched_comparator
CQ4 q4 0 5f
CQB4 qb4 0 5f
.ic V(q4)=0 V(qb4)=1.8
RP5 sp ip5 350
RN5 sn inn5 350
XCP5 ip5 0 adc_mim_bank COUNT=4096
XCN5 inn5 0 adc_mim_bank COUNT=4096
XCMP5 ip5 inn5 q5 qb5 clk vdd 0 adc_latched_comparator
CQ5 q5 0 5f
CQB5 qb5 0 5f
.ic V(q5)=0 V(qb5)=1.8
RP6 sp ip6 350
RN6 sn inn6 350
XCP6 ip6 0 adc_mim_bank COUNT=4096
XCN6 inn6 0 adc_mim_bank COUNT=4096
XCMP6 ip6 inn6 q6 qb6 clk vdd 0 adc_latched_comparator
CQ6 q6 0 5f
CQB6 qb6 0 5f
.ic V(q6)=0 V(qb6)=1.8
RP7 sp ip7 350
RN7 sn inn7 350
XCP7 ip7 0 adc_mim_bank COUNT=4096
XCN7 inn7 0 adc_mim_bank COUNT=4096
XCMP7 ip7 inn7 q7 qb7 clk vdd 0 adc_latched_comparator
CQ7 q7 0 5f
CQB7 qb7 0 5f
.ic V(q7)=0 V(qb7)=1.8
RP8 sp ip8 350
RN8 sn inn8 350
XCP8 ip8 0 adc_mim_bank COUNT=4096
XCN8 inn8 0 adc_mim_bank COUNT=4096
XCMP8 ip8 inn8 q8 qb8 clk vdd 0 adc_latched_comparator
CQ8 q8 0 5f
CQB8 qb8 0 5f
.ic V(q8)=0 V(qb8)=1.8
RP9 sp ip9 350
RN9 sn inn9 350
XCP9 ip9 0 adc_mim_bank COUNT=4096
XCN9 inn9 0 adc_mim_bank COUNT=4096
XCMP9 ip9 inn9 q9 qb9 clk vdd 0 adc_latched_comparator
CQ9 q9 0 5f
CQB9 qb9 0 5f
.ic V(q9)=0 V(qb9)=1.8
RP10 sp ip10 350
RN10 sn inn10 350
XCP10 ip10 0 adc_mim_bank COUNT=4096
XCN10 inn10 0 adc_mim_bank COUNT=4096
XCMP10 ip10 inn10 q10 qb10 clk vdd 0 adc_latched_comparator
CQ10 q10 0 5f
CQB10 qb10 0 5f
.ic V(q10)=0 V(qb10)=1.8
RP11 sp ip11 350
RN11 sn inn11 350
XCP11 ip11 0 adc_mim_bank COUNT=4096
XCN11 inn11 0 adc_mim_bank COUNT=4096
XCMP11 ip11 inn11 q11 qb11 clk vdd 0 adc_latched_comparator
CQ11 q11 0 5f
CQB11 qb11 0 5f
.ic V(q11)=0 V(qb11)=1.8
RP12 sp ip12 350
RN12 sn inn12 350
XCP12 ip12 0 adc_mim_bank COUNT=4096
XCN12 inn12 0 adc_mim_bank COUNT=4096
XCMP12 ip12 inn12 q12 qb12 clk vdd 0 adc_latched_comparator
CQ12 q12 0 5f
CQB12 qb12 0 5f
.ic V(q12)=0 V(qb12)=1.8
RP13 sp ip13 350
RN13 sn inn13 350
XCP13 ip13 0 adc_mim_bank COUNT=4096
XCN13 inn13 0 adc_mim_bank COUNT=4096
XCMP13 ip13 inn13 q13 qb13 clk vdd 0 adc_latched_comparator
CQ13 q13 0 5f
CQB13 qb13 0 5f
.ic V(q13)=0 V(qb13)=1.8
RP14 sp ip14 350
RN14 sn inn14 350
XCP14 ip14 0 adc_mim_bank COUNT=4096
XCN14 inn14 0 adc_mim_bank COUNT=4096
XCMP14 ip14 inn14 q14 qb14 clk vdd 0 adc_latched_comparator
CQ14 q14 0 5f
CQB14 qb14 0 5f
.ic V(q14)=0 V(qb14)=1.8
RP15 sp ip15 350
RN15 sn inn15 350
XCP15 ip15 0 adc_mim_bank COUNT=4096
XCN15 inn15 0 adc_mim_bank COUNT=4096
XCMP15 ip15 inn15 q15 qb15 clk vdd 0 adc_latched_comparator
CQ15 q15 0 5f
CQB15 qb15 0 5f
.ic V(q15)=0 V(qb15)=1.8
RP16 sp ip16 350
RN16 sn inn16 350
XCP16 ip16 0 adc_mim_bank COUNT=4096
XCN16 inn16 0 adc_mim_bank COUNT=4096
XCMP16 ip16 inn16 q16 qb16 clk vdd 0 adc_latched_comparator
CQ16 q16 0 5f
CQB16 qb16 0 5f
.ic V(q16)=0 V(qb16)=1.8
RP17 sp ip17 350
RN17 sn inn17 350
XCP17 ip17 0 adc_mim_bank COUNT=4096
XCN17 inn17 0 adc_mim_bank COUNT=4096
XCMP17 ip17 inn17 q17 qb17 clk vdd 0 adc_latched_comparator
CQ17 q17 0 5f
CQB17 qb17 0 5f
.ic V(q17)=0 V(qb17)=1.8
RP18 sp ip18 350
RN18 sn inn18 350
XCP18 ip18 0 adc_mim_bank COUNT=4096
XCN18 inn18 0 adc_mim_bank COUNT=4096
XCMP18 ip18 inn18 q18 qb18 clk vdd 0 adc_latched_comparator
CQ18 q18 0 5f
CQB18 qb18 0 5f
.ic V(q18)=0 V(qb18)=1.8
RP19 sp ip19 350
RN19 sn inn19 350
XCP19 ip19 0 adc_mim_bank COUNT=4096
XCN19 inn19 0 adc_mim_bank COUNT=4096
XCMP19 ip19 inn19 q19 qb19 clk vdd 0 adc_latched_comparator
CQ19 q19 0 5f
CQB19 qb19 0 5f
.ic V(q19)=0 V(qb19)=1.8
RP20 sp ip20 350
RN20 sn inn20 350
XCP20 ip20 0 adc_mim_bank COUNT=4096
XCN20 inn20 0 adc_mim_bank COUNT=4096
XCMP20 ip20 inn20 q20 qb20 clk vdd 0 adc_latched_comparator
CQ20 q20 0 5f
CQB20 qb20 0 5f
.ic V(q20)=0 V(qb20)=1.8
RP21 sp ip21 350
RN21 sn inn21 350
XCP21 ip21 0 adc_mim_bank COUNT=4096
XCN21 inn21 0 adc_mim_bank COUNT=4096
XCMP21 ip21 inn21 q21 qb21 clk vdd 0 adc_latched_comparator
CQ21 q21 0 5f
CQB21 qb21 0 5f
.ic V(q21)=0 V(qb21)=1.8
RP22 sp ip22 350
RN22 sn inn22 350
XCP22 ip22 0 adc_mim_bank COUNT=4096
XCN22 inn22 0 adc_mim_bank COUNT=4096
XCMP22 ip22 inn22 q22 qb22 clk vdd 0 adc_latched_comparator
CQ22 q22 0 5f
CQB22 qb22 0 5f
.ic V(q22)=0 V(qb22)=1.8
RP23 sp ip23 350
RN23 sn inn23 350
XCP23 ip23 0 adc_mim_bank COUNT=4096
XCN23 inn23 0 adc_mim_bank COUNT=4096
XCMP23 ip23 inn23 q23 qb23 clk vdd 0 adc_latched_comparator
CQ23 q23 0 5f
CQB23 qb23 0 5f
.ic V(q23)=0 V(qb23)=1.8
RP24 sp ip24 350
RN24 sn inn24 350
XCP24 ip24 0 adc_mim_bank COUNT=4096
XCN24 inn24 0 adc_mim_bank COUNT=4096
XCMP24 ip24 inn24 q24 qb24 clk vdd 0 adc_latched_comparator
CQ24 q24 0 5f
CQB24 qb24 0 5f
.ic V(q24)=0 V(qb24)=1.8
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
setseed 1309203
reset
tran 1n 4.3u
meas tran s0_k0_q find v(q0) at=4.25e-07
meas tran s0_k0_qb find v(qb0) at=4.25e-07
meas tran s0_k1_q find v(q0) at=1.05e-06
meas tran s0_k1_qb find v(qb0) at=1.05e-06
meas tran s0_k2_q find v(q0) at=1.675e-06
meas tran s0_k2_qb find v(qb0) at=1.675e-06
meas tran s0_k3_q find v(q0) at=2.3e-06
meas tran s0_k3_qb find v(qb0) at=2.3e-06
meas tran s0_k4_q find v(q0) at=2.925e-06
meas tran s0_k4_qb find v(qb0) at=2.925e-06
meas tran s0_k5_q find v(q0) at=3.55e-06
meas tran s0_k5_qb find v(qb0) at=3.55e-06
meas tran s0_k6_q find v(q0) at=4.175e-06
meas tran s0_k6_qb find v(qb0) at=4.175e-06
meas tran s1_k0_q find v(q1) at=4.25e-07
meas tran s1_k0_qb find v(qb1) at=4.25e-07
meas tran s1_k1_q find v(q1) at=1.05e-06
meas tran s1_k1_qb find v(qb1) at=1.05e-06
meas tran s1_k2_q find v(q1) at=1.675e-06
meas tran s1_k2_qb find v(qb1) at=1.675e-06
meas tran s1_k3_q find v(q1) at=2.3e-06
meas tran s1_k3_qb find v(qb1) at=2.3e-06
meas tran s1_k4_q find v(q1) at=2.925e-06
meas tran s1_k4_qb find v(qb1) at=2.925e-06
meas tran s1_k5_q find v(q1) at=3.55e-06
meas tran s1_k5_qb find v(qb1) at=3.55e-06
meas tran s1_k6_q find v(q1) at=4.175e-06
meas tran s1_k6_qb find v(qb1) at=4.175e-06
meas tran s2_k0_q find v(q2) at=4.25e-07
meas tran s2_k0_qb find v(qb2) at=4.25e-07
meas tran s2_k1_q find v(q2) at=1.05e-06
meas tran s2_k1_qb find v(qb2) at=1.05e-06
meas tran s2_k2_q find v(q2) at=1.675e-06
meas tran s2_k2_qb find v(qb2) at=1.675e-06
meas tran s2_k3_q find v(q2) at=2.3e-06
meas tran s2_k3_qb find v(qb2) at=2.3e-06
meas tran s2_k4_q find v(q2) at=2.925e-06
meas tran s2_k4_qb find v(qb2) at=2.925e-06
meas tran s2_k5_q find v(q2) at=3.55e-06
meas tran s2_k5_qb find v(qb2) at=3.55e-06
meas tran s2_k6_q find v(q2) at=4.175e-06
meas tran s2_k6_qb find v(qb2) at=4.175e-06
meas tran s3_k0_q find v(q3) at=4.25e-07
meas tran s3_k0_qb find v(qb3) at=4.25e-07
meas tran s3_k1_q find v(q3) at=1.05e-06
meas tran s3_k1_qb find v(qb3) at=1.05e-06
meas tran s3_k2_q find v(q3) at=1.675e-06
meas tran s3_k2_qb find v(qb3) at=1.675e-06
meas tran s3_k3_q find v(q3) at=2.3e-06
meas tran s3_k3_qb find v(qb3) at=2.3e-06
meas tran s3_k4_q find v(q3) at=2.925e-06
meas tran s3_k4_qb find v(qb3) at=2.925e-06
meas tran s3_k5_q find v(q3) at=3.55e-06
meas tran s3_k5_qb find v(qb3) at=3.55e-06
meas tran s3_k6_q find v(q3) at=4.175e-06
meas tran s3_k6_qb find v(qb3) at=4.175e-06
meas tran s4_k0_q find v(q4) at=4.25e-07
meas tran s4_k0_qb find v(qb4) at=4.25e-07
meas tran s4_k1_q find v(q4) at=1.05e-06
meas tran s4_k1_qb find v(qb4) at=1.05e-06
meas tran s4_k2_q find v(q4) at=1.675e-06
meas tran s4_k2_qb find v(qb4) at=1.675e-06
meas tran s4_k3_q find v(q4) at=2.3e-06
meas tran s4_k3_qb find v(qb4) at=2.3e-06
meas tran s4_k4_q find v(q4) at=2.925e-06
meas tran s4_k4_qb find v(qb4) at=2.925e-06
meas tran s4_k5_q find v(q4) at=3.55e-06
meas tran s4_k5_qb find v(qb4) at=3.55e-06
meas tran s4_k6_q find v(q4) at=4.175e-06
meas tran s4_k6_qb find v(qb4) at=4.175e-06
meas tran s5_k0_q find v(q5) at=4.25e-07
meas tran s5_k0_qb find v(qb5) at=4.25e-07
meas tran s5_k1_q find v(q5) at=1.05e-06
meas tran s5_k1_qb find v(qb5) at=1.05e-06
meas tran s5_k2_q find v(q5) at=1.675e-06
meas tran s5_k2_qb find v(qb5) at=1.675e-06
meas tran s5_k3_q find v(q5) at=2.3e-06
meas tran s5_k3_qb find v(qb5) at=2.3e-06
meas tran s5_k4_q find v(q5) at=2.925e-06
meas tran s5_k4_qb find v(qb5) at=2.925e-06
meas tran s5_k5_q find v(q5) at=3.55e-06
meas tran s5_k5_qb find v(qb5) at=3.55e-06
meas tran s5_k6_q find v(q5) at=4.175e-06
meas tran s5_k6_qb find v(qb5) at=4.175e-06
meas tran s6_k0_q find v(q6) at=4.25e-07
meas tran s6_k0_qb find v(qb6) at=4.25e-07
meas tran s6_k1_q find v(q6) at=1.05e-06
meas tran s6_k1_qb find v(qb6) at=1.05e-06
meas tran s6_k2_q find v(q6) at=1.675e-06
meas tran s6_k2_qb find v(qb6) at=1.675e-06
meas tran s6_k3_q find v(q6) at=2.3e-06
meas tran s6_k3_qb find v(qb6) at=2.3e-06
meas tran s6_k4_q find v(q6) at=2.925e-06
meas tran s6_k4_qb find v(qb6) at=2.925e-06
meas tran s6_k5_q find v(q6) at=3.55e-06
meas tran s6_k5_qb find v(qb6) at=3.55e-06
meas tran s6_k6_q find v(q6) at=4.175e-06
meas tran s6_k6_qb find v(qb6) at=4.175e-06
meas tran s7_k0_q find v(q7) at=4.25e-07
meas tran s7_k0_qb find v(qb7) at=4.25e-07
meas tran s7_k1_q find v(q7) at=1.05e-06
meas tran s7_k1_qb find v(qb7) at=1.05e-06
meas tran s7_k2_q find v(q7) at=1.675e-06
meas tran s7_k2_qb find v(qb7) at=1.675e-06
meas tran s7_k3_q find v(q7) at=2.3e-06
meas tran s7_k3_qb find v(qb7) at=2.3e-06
meas tran s7_k4_q find v(q7) at=2.925e-06
meas tran s7_k4_qb find v(qb7) at=2.925e-06
meas tran s7_k5_q find v(q7) at=3.55e-06
meas tran s7_k5_qb find v(qb7) at=3.55e-06
meas tran s7_k6_q find v(q7) at=4.175e-06
meas tran s7_k6_qb find v(qb7) at=4.175e-06
meas tran s8_k0_q find v(q8) at=4.25e-07
meas tran s8_k0_qb find v(qb8) at=4.25e-07
meas tran s8_k1_q find v(q8) at=1.05e-06
meas tran s8_k1_qb find v(qb8) at=1.05e-06
meas tran s8_k2_q find v(q8) at=1.675e-06
meas tran s8_k2_qb find v(qb8) at=1.675e-06
meas tran s8_k3_q find v(q8) at=2.3e-06
meas tran s8_k3_qb find v(qb8) at=2.3e-06
meas tran s8_k4_q find v(q8) at=2.925e-06
meas tran s8_k4_qb find v(qb8) at=2.925e-06
meas tran s8_k5_q find v(q8) at=3.55e-06
meas tran s8_k5_qb find v(qb8) at=3.55e-06
meas tran s8_k6_q find v(q8) at=4.175e-06
meas tran s8_k6_qb find v(qb8) at=4.175e-06
meas tran s9_k0_q find v(q9) at=4.25e-07
meas tran s9_k0_qb find v(qb9) at=4.25e-07
meas tran s9_k1_q find v(q9) at=1.05e-06
meas tran s9_k1_qb find v(qb9) at=1.05e-06
meas tran s9_k2_q find v(q9) at=1.675e-06
meas tran s9_k2_qb find v(qb9) at=1.675e-06
meas tran s9_k3_q find v(q9) at=2.3e-06
meas tran s9_k3_qb find v(qb9) at=2.3e-06
meas tran s9_k4_q find v(q9) at=2.925e-06
meas tran s9_k4_qb find v(qb9) at=2.925e-06
meas tran s9_k5_q find v(q9) at=3.55e-06
meas tran s9_k5_qb find v(qb9) at=3.55e-06
meas tran s9_k6_q find v(q9) at=4.175e-06
meas tran s9_k6_qb find v(qb9) at=4.175e-06
meas tran s10_k0_q find v(q10) at=4.25e-07
meas tran s10_k0_qb find v(qb10) at=4.25e-07
meas tran s10_k1_q find v(q10) at=1.05e-06
meas tran s10_k1_qb find v(qb10) at=1.05e-06
meas tran s10_k2_q find v(q10) at=1.675e-06
meas tran s10_k2_qb find v(qb10) at=1.675e-06
meas tran s10_k3_q find v(q10) at=2.3e-06
meas tran s10_k3_qb find v(qb10) at=2.3e-06
meas tran s10_k4_q find v(q10) at=2.925e-06
meas tran s10_k4_qb find v(qb10) at=2.925e-06
meas tran s10_k5_q find v(q10) at=3.55e-06
meas tran s10_k5_qb find v(qb10) at=3.55e-06
meas tran s10_k6_q find v(q10) at=4.175e-06
meas tran s10_k6_qb find v(qb10) at=4.175e-06
meas tran s11_k0_q find v(q11) at=4.25e-07
meas tran s11_k0_qb find v(qb11) at=4.25e-07
meas tran s11_k1_q find v(q11) at=1.05e-06
meas tran s11_k1_qb find v(qb11) at=1.05e-06
meas tran s11_k2_q find v(q11) at=1.675e-06
meas tran s11_k2_qb find v(qb11) at=1.675e-06
meas tran s11_k3_q find v(q11) at=2.3e-06
meas tran s11_k3_qb find v(qb11) at=2.3e-06
meas tran s11_k4_q find v(q11) at=2.925e-06
meas tran s11_k4_qb find v(qb11) at=2.925e-06
meas tran s11_k5_q find v(q11) at=3.55e-06
meas tran s11_k5_qb find v(qb11) at=3.55e-06
meas tran s11_k6_q find v(q11) at=4.175e-06
meas tran s11_k6_qb find v(qb11) at=4.175e-06
meas tran s12_k0_q find v(q12) at=4.25e-07
meas tran s12_k0_qb find v(qb12) at=4.25e-07
meas tran s12_k1_q find v(q12) at=1.05e-06
meas tran s12_k1_qb find v(qb12) at=1.05e-06
meas tran s12_k2_q find v(q12) at=1.675e-06
meas tran s12_k2_qb find v(qb12) at=1.675e-06
meas tran s12_k3_q find v(q12) at=2.3e-06
meas tran s12_k3_qb find v(qb12) at=2.3e-06
meas tran s12_k4_q find v(q12) at=2.925e-06
meas tran s12_k4_qb find v(qb12) at=2.925e-06
meas tran s12_k5_q find v(q12) at=3.55e-06
meas tran s12_k5_qb find v(qb12) at=3.55e-06
meas tran s12_k6_q find v(q12) at=4.175e-06
meas tran s12_k6_qb find v(qb12) at=4.175e-06
meas tran s13_k0_q find v(q13) at=4.25e-07
meas tran s13_k0_qb find v(qb13) at=4.25e-07
meas tran s13_k1_q find v(q13) at=1.05e-06
meas tran s13_k1_qb find v(qb13) at=1.05e-06
meas tran s13_k2_q find v(q13) at=1.675e-06
meas tran s13_k2_qb find v(qb13) at=1.675e-06
meas tran s13_k3_q find v(q13) at=2.3e-06
meas tran s13_k3_qb find v(qb13) at=2.3e-06
meas tran s13_k4_q find v(q13) at=2.925e-06
meas tran s13_k4_qb find v(qb13) at=2.925e-06
meas tran s13_k5_q find v(q13) at=3.55e-06
meas tran s13_k5_qb find v(qb13) at=3.55e-06
meas tran s13_k6_q find v(q13) at=4.175e-06
meas tran s13_k6_qb find v(qb13) at=4.175e-06
meas tran s14_k0_q find v(q14) at=4.25e-07
meas tran s14_k0_qb find v(qb14) at=4.25e-07
meas tran s14_k1_q find v(q14) at=1.05e-06
meas tran s14_k1_qb find v(qb14) at=1.05e-06
meas tran s14_k2_q find v(q14) at=1.675e-06
meas tran s14_k2_qb find v(qb14) at=1.675e-06
meas tran s14_k3_q find v(q14) at=2.3e-06
meas tran s14_k3_qb find v(qb14) at=2.3e-06
meas tran s14_k4_q find v(q14) at=2.925e-06
meas tran s14_k4_qb find v(qb14) at=2.925e-06
meas tran s14_k5_q find v(q14) at=3.55e-06
meas tran s14_k5_qb find v(qb14) at=3.55e-06
meas tran s14_k6_q find v(q14) at=4.175e-06
meas tran s14_k6_qb find v(qb14) at=4.175e-06
meas tran s15_k0_q find v(q15) at=4.25e-07
meas tran s15_k0_qb find v(qb15) at=4.25e-07
meas tran s15_k1_q find v(q15) at=1.05e-06
meas tran s15_k1_qb find v(qb15) at=1.05e-06
meas tran s15_k2_q find v(q15) at=1.675e-06
meas tran s15_k2_qb find v(qb15) at=1.675e-06
meas tran s15_k3_q find v(q15) at=2.3e-06
meas tran s15_k3_qb find v(qb15) at=2.3e-06
meas tran s15_k4_q find v(q15) at=2.925e-06
meas tran s15_k4_qb find v(qb15) at=2.925e-06
meas tran s15_k5_q find v(q15) at=3.55e-06
meas tran s15_k5_qb find v(qb15) at=3.55e-06
meas tran s15_k6_q find v(q15) at=4.175e-06
meas tran s15_k6_qb find v(qb15) at=4.175e-06
meas tran s16_k0_q find v(q16) at=4.25e-07
meas tran s16_k0_qb find v(qb16) at=4.25e-07
meas tran s16_k1_q find v(q16) at=1.05e-06
meas tran s16_k1_qb find v(qb16) at=1.05e-06
meas tran s16_k2_q find v(q16) at=1.675e-06
meas tran s16_k2_qb find v(qb16) at=1.675e-06
meas tran s16_k3_q find v(q16) at=2.3e-06
meas tran s16_k3_qb find v(qb16) at=2.3e-06
meas tran s16_k4_q find v(q16) at=2.925e-06
meas tran s16_k4_qb find v(qb16) at=2.925e-06
meas tran s16_k5_q find v(q16) at=3.55e-06
meas tran s16_k5_qb find v(qb16) at=3.55e-06
meas tran s16_k6_q find v(q16) at=4.175e-06
meas tran s16_k6_qb find v(qb16) at=4.175e-06
meas tran s17_k0_q find v(q17) at=4.25e-07
meas tran s17_k0_qb find v(qb17) at=4.25e-07
meas tran s17_k1_q find v(q17) at=1.05e-06
meas tran s17_k1_qb find v(qb17) at=1.05e-06
meas tran s17_k2_q find v(q17) at=1.675e-06
meas tran s17_k2_qb find v(qb17) at=1.675e-06
meas tran s17_k3_q find v(q17) at=2.3e-06
meas tran s17_k3_qb find v(qb17) at=2.3e-06
meas tran s17_k4_q find v(q17) at=2.925e-06
meas tran s17_k4_qb find v(qb17) at=2.925e-06
meas tran s17_k5_q find v(q17) at=3.55e-06
meas tran s17_k5_qb find v(qb17) at=3.55e-06
meas tran s17_k6_q find v(q17) at=4.175e-06
meas tran s17_k6_qb find v(qb17) at=4.175e-06
meas tran s18_k0_q find v(q18) at=4.25e-07
meas tran s18_k0_qb find v(qb18) at=4.25e-07
meas tran s18_k1_q find v(q18) at=1.05e-06
meas tran s18_k1_qb find v(qb18) at=1.05e-06
meas tran s18_k2_q find v(q18) at=1.675e-06
meas tran s18_k2_qb find v(qb18) at=1.675e-06
meas tran s18_k3_q find v(q18) at=2.3e-06
meas tran s18_k3_qb find v(qb18) at=2.3e-06
meas tran s18_k4_q find v(q18) at=2.925e-06
meas tran s18_k4_qb find v(qb18) at=2.925e-06
meas tran s18_k5_q find v(q18) at=3.55e-06
meas tran s18_k5_qb find v(qb18) at=3.55e-06
meas tran s18_k6_q find v(q18) at=4.175e-06
meas tran s18_k6_qb find v(qb18) at=4.175e-06
meas tran s19_k0_q find v(q19) at=4.25e-07
meas tran s19_k0_qb find v(qb19) at=4.25e-07
meas tran s19_k1_q find v(q19) at=1.05e-06
meas tran s19_k1_qb find v(qb19) at=1.05e-06
meas tran s19_k2_q find v(q19) at=1.675e-06
meas tran s19_k2_qb find v(qb19) at=1.675e-06
meas tran s19_k3_q find v(q19) at=2.3e-06
meas tran s19_k3_qb find v(qb19) at=2.3e-06
meas tran s19_k4_q find v(q19) at=2.925e-06
meas tran s19_k4_qb find v(qb19) at=2.925e-06
meas tran s19_k5_q find v(q19) at=3.55e-06
meas tran s19_k5_qb find v(qb19) at=3.55e-06
meas tran s19_k6_q find v(q19) at=4.175e-06
meas tran s19_k6_qb find v(qb19) at=4.175e-06
meas tran s20_k0_q find v(q20) at=4.25e-07
meas tran s20_k0_qb find v(qb20) at=4.25e-07
meas tran s20_k1_q find v(q20) at=1.05e-06
meas tran s20_k1_qb find v(qb20) at=1.05e-06
meas tran s20_k2_q find v(q20) at=1.675e-06
meas tran s20_k2_qb find v(qb20) at=1.675e-06
meas tran s20_k3_q find v(q20) at=2.3e-06
meas tran s20_k3_qb find v(qb20) at=2.3e-06
meas tran s20_k4_q find v(q20) at=2.925e-06
meas tran s20_k4_qb find v(qb20) at=2.925e-06
meas tran s20_k5_q find v(q20) at=3.55e-06
meas tran s20_k5_qb find v(qb20) at=3.55e-06
meas tran s20_k6_q find v(q20) at=4.175e-06
meas tran s20_k6_qb find v(qb20) at=4.175e-06
meas tran s21_k0_q find v(q21) at=4.25e-07
meas tran s21_k0_qb find v(qb21) at=4.25e-07
meas tran s21_k1_q find v(q21) at=1.05e-06
meas tran s21_k1_qb find v(qb21) at=1.05e-06
meas tran s21_k2_q find v(q21) at=1.675e-06
meas tran s21_k2_qb find v(qb21) at=1.675e-06
meas tran s21_k3_q find v(q21) at=2.3e-06
meas tran s21_k3_qb find v(qb21) at=2.3e-06
meas tran s21_k4_q find v(q21) at=2.925e-06
meas tran s21_k4_qb find v(qb21) at=2.925e-06
meas tran s21_k5_q find v(q21) at=3.55e-06
meas tran s21_k5_qb find v(qb21) at=3.55e-06
meas tran s21_k6_q find v(q21) at=4.175e-06
meas tran s21_k6_qb find v(qb21) at=4.175e-06
meas tran s22_k0_q find v(q22) at=4.25e-07
meas tran s22_k0_qb find v(qb22) at=4.25e-07
meas tran s22_k1_q find v(q22) at=1.05e-06
meas tran s22_k1_qb find v(qb22) at=1.05e-06
meas tran s22_k2_q find v(q22) at=1.675e-06
meas tran s22_k2_qb find v(qb22) at=1.675e-06
meas tran s22_k3_q find v(q22) at=2.3e-06
meas tran s22_k3_qb find v(qb22) at=2.3e-06
meas tran s22_k4_q find v(q22) at=2.925e-06
meas tran s22_k4_qb find v(qb22) at=2.925e-06
meas tran s22_k5_q find v(q22) at=3.55e-06
meas tran s22_k5_qb find v(qb22) at=3.55e-06
meas tran s22_k6_q find v(q22) at=4.175e-06
meas tran s22_k6_qb find v(qb22) at=4.175e-06
meas tran s23_k0_q find v(q23) at=4.25e-07
meas tran s23_k0_qb find v(qb23) at=4.25e-07
meas tran s23_k1_q find v(q23) at=1.05e-06
meas tran s23_k1_qb find v(qb23) at=1.05e-06
meas tran s23_k2_q find v(q23) at=1.675e-06
meas tran s23_k2_qb find v(qb23) at=1.675e-06
meas tran s23_k3_q find v(q23) at=2.3e-06
meas tran s23_k3_qb find v(qb23) at=2.3e-06
meas tran s23_k4_q find v(q23) at=2.925e-06
meas tran s23_k4_qb find v(qb23) at=2.925e-06
meas tran s23_k5_q find v(q23) at=3.55e-06
meas tran s23_k5_qb find v(qb23) at=3.55e-06
meas tran s23_k6_q find v(q23) at=4.175e-06
meas tran s23_k6_qb find v(qb23) at=4.175e-06
meas tran s24_k0_q find v(q24) at=4.25e-07
meas tran s24_k0_qb find v(qb24) at=4.25e-07
meas tran s24_k1_q find v(q24) at=1.05e-06
meas tran s24_k1_qb find v(qb24) at=1.05e-06
meas tran s24_k2_q find v(q24) at=1.675e-06
meas tran s24_k2_qb find v(qb24) at=1.675e-06
meas tran s24_k3_q find v(q24) at=2.3e-06
meas tran s24_k3_qb find v(qb24) at=2.3e-06
meas tran s24_k4_q find v(q24) at=2.925e-06
meas tran s24_k4_qb find v(qb24) at=2.925e-06
meas tran s24_k5_q find v(q24) at=3.55e-06
meas tran s24_k5_qb find v(qb24) at=3.55e-06
meas tran s24_k6_q find v(q24) at=4.175e-06
meas tran s24_k6_qb find v(qb24) at=4.175e-06
wrdata /repo/v2/analog/adc/results/comparator_mc_batch_3.tsv v(sp) v(sn) v(q0) v(qb0) v(q24) v(qb24)
quit
.endc
.end
